US06727264B1
3-(2,6-DICHLOROPHENYL)-N-(5-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PENTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE:
A mixture of 3-(2,6-dichlorophenyl)-4-formyl-5-isoxazolecarbonyl chloride (69.0 mg, 0.250 mmol), N-{3-[1-(5-aminopentyl)-4-piperidinyl]phenyl}-2-ethylpropanamide (44.0 mg, 0.150 mmol), TEA (30.0 mg, 0.300 mmol) in THF (2 mL) was stirred for 12 h at room temperature. The crude product was purified by preparative TLC using CH2Cl2/MeOH/isopropyl amine (19:1:0.2) to give the desired product (52 mg, 67%). 1H NMR (400 MHz, CDCl3) δ 7.52-7.49 (m, 2H), 7.49-7.41 (m, 2H), 7.39-7.31 (m, 2H), 7.29-7.21 (m, 2H), 6.92 (d, 1H, J=7.6 Hz), 3.25-3.11 (m, 5H), 2.81-2.74 (m, 4H), 2.58-2.44 (m, 4H), 2.30-2.19 (m, 2H), 1.93-1.78 (m, 4H), 1.56-1.44 (m, 2H), 1.31-1.28 (m, 2H), 1.24 (d, 6H, J=6.6 Hz); ESMS m/e: 585.2 (M+H)+.

reactant | 3-(2,6-dichlorophenyl)-4-formyl-5-isoxazolecarbonyl chloride | 0.250 mmol, 69.0 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C=O)C(=O)Cl | C11H4Cl3NO3
reactant | N-{3-[1-(5-aminopentyl)-4-piperidinyl]phenyl}-2-ethylpropanamide | 0.150 mmol, 44.0 mg | NCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)CC)=O | C21H35N3O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(2,6-DICHLOROPHENYL)-N-(5-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PENTYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE | 52 mg, 67% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)NCCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C31H38Cl2N4O3
